US04684658
A suspension of 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carbonitrile (11.35 g) and of potassium hydroxide powder (14 g) in tert-butyl alcohol (100 cc) is heated at 85° C. for 1 hour. After 16 hours' stirring at a temperature of about 20° C., the reaction mixture is poured into distilled water (2 liters). The suspension is stirred at a temperature of about 20° C. for 15 minutes and then the crystals which have appeared are separated off by filtration, washed 8 times with distilled water (1,200 cc in total) and then 3 times with ethanol (150 cc in total) and are dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. A crude product (10.5 g) is thus obtained which is combined with a product (3.9 g) prepared in the same manner in an earlier operation and dissolved in boiling ethanol (850 cc). The solution is treated with decolourising charcoal (0.5 g) and filtered hot. The filtrate is cooled at a temperature of about 4° C. for 3 days. The crystals which have appeared are separated off by filtration, washed 3 times with ethanol (30 cc in total) cooled to a temperature of about 4° C. and are dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. 5-(3-Pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide (11.3 g) is thus obtained in the form of cream crystals melting at 215° C.

reactant | 5-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carbonitrile | 11.35 g | N1=CC(=CC=C1)C1=CC(=C2N1CSC2)C#N | C12H9N3S
reactant | potassium hydroxide | 14 g | [OH-].[K+]
reactant | ethanol | 850 cc | C(C)O | C2H6O
reactant | charcoal | 0.5 g | C | CH4
solvent | tert-butyl alcohol | 100 cc | C(C)(C)(C)O | C4H10O
product | 5-(3-Pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxamide | 11.3 g | N1=CC(=CC=C1)C1=CC(=C2N1CSC2)C(=O)N | C12H11N3OS
